US08541575B2
N-(3-{4-[2-(ethylamino)pyrimidin-4-yl]-1-(4-methoxybenzyl)-1H-pyrazol-3-yl}phenyl)-2,5-difluorobenzenesulfonamide
340 mg (0.85 mmol) of 4-[3-(3-aminophenyl)-1-(4-methoxybenzyl)-1H-pyrazol-4-yl]-N-ethylpyrimidin-2-amine were dissolved in 10 ml of dry pyridine and 114 μl (0.85 mmol) of 2,5-difluorobenzensulfonyl chloride were added. The resulting solution was stirred at room temperature overnight. The mixture was then poured into aqueous sodium hydrogenocarbonate and extracted with dichloromethane. The organic layer was finally dried over sodium sulphate and evaporated, giving 450 mg (91%) of the title compound.

reactant | 4-[3-(3-aminophenyl)-1-(4-methoxybenzyl)-1H-pyrazol-4-yl]-N-ethylpyrimidin-2-amine | 0.85 mmol, 340 mg | NC=1C=C(C=CC1)C1=NN(C=C1C1=NC(=NC=C1)NCC)CC1=CC=C(C=C1)OC | C23H24N6O
reactant | 2,5-difluorobenzensulfonyl chloride | 0.85 mmol, 114 μl | FC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | sodium | [Na] | Na
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-{4-[2-(ethylamino)pyrimidin-4-yl]-1-(4-methoxybenzyl)-1H-pyrazol-3-yl}phenyl)-2,5-difluorobenzenesulfonamide | 450 mg, 91% | C(C)NC1=NC=CC(=N1)C=1C(=NN(C1)CC1=CC=C(C=C1)OC)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C29H26F2N6O3S
